US05243042
A solution of [3,7-dihydro-7-oxo-3-(β-D-ribofuranosyl)imidazo[4,5-d][1,3]thiazin-5-yl]carbamic acid phenylmethyl ester (170 mg, 0.39 mmol) in dry DMF (10 mL) was hydrogenated in the presence of 10% palladium on charcoal (200 mg) at room temperature and 50 psig for 6 h. Additional catalyst (200 mg) was added and hydrogenation continued for another 16 h. Catalyst was removed by filtration and was washed with DMF (10 mL) and ethanol (10 mL). The washing and filtrate were combined and concentrated under reduced pressure. The residue was dissolved in CH3OH and mixed with silica gel (3 g) and evaporated again to dryness. This silica gel sample was loaded on top of a silica gel column (30 g) packed in CHCl3 --CH3OH mixture, 4:1, v/v, and eluted with the same solvent, collecting 30-mL fractions. Fractions 7 to 12 were combined and concentrated, and pumped under reduced pressure to give pure 1-thiaguanosine: 90 mg (53%). 1-Thiaguanosine was crystallized from water-ethanol mixture to give needles: mp 212°-215° C. (dec); IR (KBr) 3415, 3385, 3300, 3190, 3105, 1695, 1662, 1635, and 1530 cm-1 ; HRMS [(+) FAB] m/z found 301.0597 [calcd for C10H13N4O5S, 301.0607 (M+H+)]; NMR (Me2SO-d6) δ3.53 (m, 1), 3.60 (m, 1), 3.86 (q, 1, J=4 Hz), 4.09 (m, 1), 4.38 (m, 1), 5.03 (t, 1, J=5 Hz), 5.20 (m, 1), 5.48 (d, 1, J=5 Hz), 5.80 (d, 1, J=6 Hz), 8.11 (s, 1), 8.34 (s, 2); UV max (95% C2H5OH) 207 nm (ε26750), 218 (sh, 24375), 264 (8000), 274 (5750), 323 (6725); (0.1N HCl) 210 nm (ε19000 ), 266 (8450), 277 (sh, 6400), 325 (6600); (pH 7 and pH 11) 209 nm (ε18400), 220 (sh, 18200), 264 (7600), 275 (sh, 5200), 325 (6450).

reactant | [3,7-dihydro-7-oxo-3-(β-D-ribofuranosyl)imidazo[4,5-d][1,3]thiazin-5-yl]carbamic acid phenylmethyl ester | 0.39 mmol, 170 mg | C1(=CC=CC=C1)COC(NC=1SC(C2=C(N1)N(C=N2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)=O)=O | C18H18N4O7S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
product | 1-thiaguanosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)SC(N)=NC12 | C10H12N4O5S
